US08247401B2
Step C: tert-butyl 3-(5-methylpyridin-2-yl)-5-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]benzoate
To a solution of tert-butyl 3-bromo-5-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]benzoate (1.2 g, 2.8 mmol) in 0.6 mL of dioxane under N2 was added 5-methyl-2-pyridyl zinc bromide (0.5M, 11.3 mL, 5.67 mmol). The reaction was heated to 70° C. for two hours. An additional 0.5 equivalents of zinc reagent was added and the mixture stirred at 70° C. overnight. The mixture was cooled and concentrated. The crude material was taken up in EtOAc and sat. NaHCO3 and sat. Rochelle's salt added. The organic layer was extracted and washed with Rochelle's salt (2×) followed by brine. The final organic layer was dried over Na2SO4, filtered and concentrated to 1.01 g of crude material. Purification using automated flash chromatography (SiO2, 120 g, 0-5% MeOH/DCM) gave, upon concentration, title product. LC-MS (M+H)=436.1

reactant | tert-butyl 3-bromo-5-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]benzoate | 2.8 mmol, 1.2 g | BrC=1C=C(C(=O)OC(C)(C)C)C=C(C1)C(C(F)(F)F)(C(F)(F)F)O | C14H13BrF6O3
reactant | 5-methyl-2-pyridyl zinc bromide | 5.67 mmol, 0.5M, 11.3 mL | [Br-].CC=1C=CC(=NC1)[Zn+]
solvent | dioxane | 0.6 mL | O1CCOCC1 | C4H8O2
catalyst | zinc | 0.5 equivalents | [Zn] | Zn
product | tert-butyl 3-(5-methylpyridin-2-yl)-5-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]benzoate | CC=1C=CC(=NC1)C=1C=C(C(=O)OC(C)(C)C)C=C(C1)C(C(F)(F)F)(C(F)(F)F)O | C20H19F6NO3
